US08283353B2
4′-{[4-(3,3-dimethyl-2-oxobutyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of 4′-[(5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile (1 g), 1-bromo-3,3-dimethylbutan-2-one (0.4 mL), potassium carbonate (0.75 g) and N,N-dimethylformamide (15 mL) was stirred at room temperature for 3 hr. The reaction mixture was diluted with ethyl acetate, washed with 5% aqueous potassium hydrogensulfate solution and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.4 g, 32%).

reactant | 4′-[(5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 1 g | O=C1NC=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C22H19N5O
reactant | 1-bromo-3,3-dimethylbutan-2-one | 0.4 mL | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | potassium carbonate | 0.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-{[4-(3,3-dimethyl-2-oxobutyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.4 g, 32% | CC(C(CN1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)=O)(C)C | C28H29N5O2
